Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Admission for autotransplant for treatement of multiple myeloma 
 
Major Surgical or Invasive Procedure:
1. Autologous stem cell transplant

 
History of Present Illness:
The patient is a ___ year old male with a diagnosis of multiple 
myeloma in ___ with T4 plasmacytoma s/p spinal fusion and 
XRT, s/p 4 cycles of Velcade/Decadron complicated by severe 
neuropathy and constipation. He is being admitted today for 
autotransplant.  
.  
He initially presented with non-specific chest pain and was 
found to have a T4 compression fracture on CTA to evaluation of 
PE. MRI revealed pathologic fracture at T4 level with 
compression of the vertebral body and retropulsion and enhancing 
epidural and paraspinal soft tissues. Skeletal survey revealed 
no other lesions. He had a normal CBC and differential as well 
as renal function and calcium level. Hospitalization was also 
complicated by severe constipation. He has since undergone 3 
cycles of velcade/dex, cyclophosphamide infusion, and stem cell 
collection on ___.  Collection was successful, however, one 
bag did grow G+ orgranisms sensitive to fluroquinolones. The 
current product is culture negative. 
.  

At this time the patient reports diffuse bilateral ___ pain 
starting 2 weeks after initiation of chemotherapy. He describes 
a sensation of muscle tightness. He states that this pain is 
releived by oxycontin. Since his prior admission, the dose of 
oxycontin has increased from 15mg bid to tid, and this provides 
better control. He also reports numbness and tingling in 
bilateral plantar region of feet and of hands. He denies 
weakness. In addition to the above, he also reports h/o numbness 
in ___ digits of right foot and episode of hyperesthesia of 
skin in the right foot. This occured about a week ago and 
resolved over a ___ day period.
.  
REVIEW OF SYSTEMS:  
+ nightsweats since cyclophosphomide infusion w/o associted 
fevers, chills
- No fevers, chills, fatigue, or malaise. No headache, vertigo, 
presyncope, syncope, vision changes, or hearing changes. No 
chest pain, pressure, palpitations, SOB, DOE, orthopnea, PND, 
cough, or hemoptysis. No abdominal pain, nausea, vomiting, 
diarrhea, melena or BRBPR. No hematuria, dysuria, frequency, 
urgency, hesitancy, or incontinence. No rashes or skin lesions.  


 
Past Medical History:
ONCOLOGICAL HISTORY: 
# Multiple Myeloma
-- (___) Diagnosed after pathological T4 vertebral fracture
-- (___) Skeletal survey without other lesions
-- (___) T4 vertebrectomy and anterior T3-5 fusion
-- (___) Pathology of spinal lesion shows plasmacytoma
-- (___) Posterior T1-T8 fusion
-- (___) Bone marrow biopsy with plasma cell dyscrasia
-- Hypocellular bone marrow with trilineage hematopoiesis and 
clusters of plasma cells. CD138 highlight small clusters of 
plasma cells, which by kappa lambda staining are kappa 
monotypic.
-- Normal cytogenetics
-- (___) Started XRT and Velcade/Decadron
-- (___) Enrolled in protocol ___ (Blockage of PD-1 In 
Conjunction with the Dendritic Cell/Myeloma Vaccines following 
Stem Cell Transplantation)
-- (___) Skeletal survey without other lesions
-- (___) Cellular marrow aspirate with maturing trilineage 
hematopoiesis. Diagnostically inadequate due to lack of core 
biopsy.
--___: cyclophosphomide infusion
--___: stem cell collection
.
OTHER PAST MEDICAL HISTORY:
Hyperlipidemia
Denies HTN, DM, MI, CVA/TIA 
 
Social History:
___
Family History:
Sister with breast cancer diagnosed at unknown age
Negative for neoplasm, immunosuppression, bleeding, or clotting 
disorders. Mom died in ___ ___ disease. Father died 
at ___ of heart disease.

 
Physical Exam:
PHYSICAL EXAMINATION:  
Gen: well appearing man, laying in bed in NAD 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, clear OP  
Neck: Supple, full ROM. JVP not elevated. No cervical 
lymphadenopathy.  
CV: RRR with normal S1, S2. No M/R/G. No S3 or S4.  
Chest: CTABL, no crackles, wheezes, or rhonchi.  
Abd: Bowel sounds + x 4, ND, NT, no rebound  
Ext: 2+ distal pulses, no c/c/e  
Skin: no rashes  
Neuro: CN II-XII grossly intact. Strength ___ in all 
extremities.
 
Pertinent Results:
ADMISSION LABS:
Neuts-71.0* Lymphs-16.7* Monos-10.0 Eos-0.3 Baso-2.0
WBC-4.6 RBC-4.50* Hgb-13.0* Hct-40.0 MCV-89 MCH-28.9 MCHC-32.5 
RDW-15.8* Plt ___ PTT-27.1 ___
ESR-42*
UreaN-9 Creat-0.7 Na-143 K-4.9 Cl-106 HCO3-27 AnGap-15
ALT-23 AST-25 LD(LDH)-175 AlkPhos-112 TotBili-0.3 DirBili-0.1 
IndBili-0.2
TotProt-6.7 Calcium-8.9 Phos-3.5 Mg-2.1 UricAcd-4.2
TSH-1.9
___
SERUM PROTEIN ELECTROPHORESIS = PEP-TRACE ABNO b2micro-1.9 
IgG-928 IgA-209 IgM-33* IFE-TRACE MONO
FREE KAPPA AND LAMBDA, WITH K/L RATIO-Test      
Test                          Result              Reference 
Range/Units
FREE KAPPA, SERUM             17.1                3.3-19.4 mg/L 
FREE LAMBDA, SERUM            9.7                 5.7-26.3 mg/L 
FREE KAPPA/LAMBDA RATIO       1.76  H             0.26-1.65
.
DISCHARGE LABS:
WBC-3.0* RBC-3.70* Hgb-11.2* Hct-33.5* MCV-90 MCH-30.3 MCHC-33.5 
RDW-16.0* Plt Ct-69*#
Neuts-53 Bands-0 Lymphs-8* Monos-32* Eos-0 Baso-0 Atyps-1* 
Metas-4* Myelos-2*
___ PTT-30.8 ___
Glucose-101* UreaN-3* Creat-0.5 Na-137 K-3.8 Cl-101 HCO3-29 
AnGap-11
Calcium-8.7 Phos-3.3 Mg-2.2
ALT-26 AST-34 LD(LDH)-233 AlkPhos-116 TotBili-0.6 Albumin-3.9 
.
MICROBIOLOGY:
BLOOD CULTURES (___): negative
URINE CULTURE (___): negative
C. DIFF TOXINS A/B (___): negative
CENTRAL LINE TIP CULTURE (___): pending 
.
SUPINE AND UPRIGHT ABDOMINAL X-RAY (___): There is scattered 
area in nondistended loops of small and large bowel with some 
scattered air-fluid levels on the upright study. Findings are 
nonspecific. There is no evidence for obstruction. Spinal 
hardware is seen overlying the mid thoracic spine and is 
incompletely visualized on the current study. 
IMPRESSION: 
1. Nonspecific bowel gas pattern with no evidence of 
obstruction. No 
evidence of free air. 
 
Brief Hospital Course:
___ yo man with a recent diagnosis of MM with a large paraspinal 
plamacytoma now sp 4 cycles of velcade/dex with neuropathy 
admitted for autologous transplant on ___. 
. 
# MULTIPLE MYELOMA s/p autoSCT: Patient received melphalan on 
D-3 and D-2, and received stem cell transplant on ___. 
Initially started on ciprofloxacin ppx bc stem cell cx FQ 
sensitive. On D+7 (___), spiked fever to 100.3 so antibiotics 
broadened to vanc+cefipime. Abx were discontinued once ___ 
recovered.  Pt had prophylaxis with acyclovir and nystatin. 
.  
___ PAIN/NEUROPATHY: patient has severe peripheral and autonomic 
neuropathy ___ velcade, presenting as neuropathic pain in 
BLE/BUE, orthostatic hypotension and previous episode of severe 
constipation requiring hospitalization. During this 
hospitalization had neuropathic pain and some constipation. Had 
KUB for constipation, found to have no signs of SBO/ileus; 
constipation improved. Initially his home neurontin (300mg qAM, 
300mg qNoon, and 600mg qPM) was tapered due to concern for its 
myelosuppressive effects in the setting of chemotherapy. 
Amitryptyline was substituted, but had to discontinue on ___ 
as concerned it was causing night sweats. Once ___ recovered, 
gabapentin was gradually titrated up to 600mg qAM, 600mg qNoon 
and 900mg qPM. Given significant ___ pain, also started 
pregabalin 75mg PO BID. Also on oxycodone 200mg qAM, 100mg 
qNoon, and 200mg qPM.  
.  
# NEUTROPENIC FEVER: Pt with neutropenic fever to 100.3 on ___ 
___ s/p AutoSCT), with WBC count 0.1. BCx, UCx, CXR negative. 
Started vancomycin (given central line) and cefipime to cover GP 
including MRSA and GN including pseudomonas. No focal symptoms. 
Pt afebrile since ___. Discontinued vancomycin and cefepime on 
___ given 2 days of ANC>1000. Also discontinued neupogen 
yesterday, as fever on ___ was most likely ___ neupogen.  
.  
# MUCOSITIS: pt c/o mouth pain and odynophagia starting on ___ 
(D+7). Likely mucositis. Improved once ___ recovered.  
- Continue GI cocktail (maalox, benadryl, lidocaine) prn  
- Continue clotrimazole and caphasol per protocol  
.  
# IV Access: pt had issues with his left CVL, with downstream 
occlusion alarm ringing when he slept on his right. Found likely 
___ anatomic occlusion with position change. 
.  
#Orthostatic hypotension: ___ velcade. Continued 
fludrocortisone. 
 
Medications on Admission:
ACYCLOVIR - 400 mg Tablet - 1 Tablet(s) by mouth three times a
day Please dispense a 3month supply
AMITRIPTYLINE -  (Dose adjustment - no new Rx) - 25 mg Tablet - 
1
Tablet(s) by mouth at bedtime
FLUDROCORTISONE - 0.1 mg Tablet - 1 Tablet(s) by mouth daily
FOLIC ACID -  (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth daily
GABAPENTIN -  (Dose adjustment - no new Rx) - 300 mg Capsule - 2
Capsule(s) by mouth in the morning, 2 in the afternoon, and 3 at
bedtime.
HYDROMORPHONE -  (Prescribed by Other Provider) - 2 mg Tablet - 
1
Tablet(s) by mouth  PRN pain
LORAZEPAM -  (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth every six (6) hours as needed for anxiety
Patient reports taking just 0.5mg
OMEPRAZOLE -  (Dose adjustment - no new Rx) - 20 mg Capsule,
Delayed Release(E.C.) - 1 Capsule(s) by mouth daily
ONDANSETRON HCL - 8 mg Tablet - 1 Tablet(s) by mouth every eight
(8) hours as needed for nausea
OXYCODONE [OXYCONTIN] - 15 mg Tablet Extended Release 12 hr - 1
Tablet(s) by mouth three times a day DOSE CHANGE.
PROCHLORPERAZINE MALEATE -  (Dose adjustment - no new Rx) - 10 
mg
Tablet - 1 Tablet(s) by mouth q6-8h as needed for nausea
ACETAMINOPHEN -  (OTC) - 500 mg Tablet - 2 Tablet(s) by mouth 
PRN for leg pain
B COMPLEX VITAMINS [B COMPLEX-VITAMIN B12] -   Tablet - 1
Tablet(s) by mouth daily
DOCUSATE SODIUM -  (Prescribed by Other Provider) - 100 mg
Capsule - 2 Capsule(s) by mouth twice a day
POLYETHYLENE GLYCOL 3350 [MIRALAX] -  (Dose adjustment - no new
Rx) - 17 gram Powder in Packet - 1 Powder(s) by mouth daily as
needed for constipation
SENNOSIDES -  (Dose adjustment - no new Rx) - 8.6 mg Tablet - 2
Tablet(s) by mouth at bedtime
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for anxiety/nausea.  
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
3. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for PAIN.  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO twice a day as needed for 
Constipation.  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
BID (2 times a day) as needed for CONSTIPATION.  
10. simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas.
Disp:*120 Tablet, Chewable(s)* Refills:*0*
11. OxyContin 10 mg Tablet Extended Release 12 hr Sig: AS 
DIRECTED Tablet Extended Release 12 hr PO three times a day: 
Take 20mg (2 pills) in AM, 10mg (1 pill) at noon, and 20mg (2 
pills) in ___.
Disp:*150 Tablet Extended Release 12 hr(s)* Refills:*2*
12. pregabalin 75 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
13. gabapentin 300 mg Capsule Sig: AS DIRECTED Capsule PO three 
times a day: Take 600mg (2 pills) in AM, 600mg (2 pills) at 
noon, and 900 mg (3 pills) in ___. .
Disp:*210 Capsule(s)* Refills:*2*
14. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Multiple myeloma
2. Peripheral neuropathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure participating in your care at ___ 
___. You were admitted to the hospital for 
chemotherapy and a stem cell transplant to treat your multiple 
myeloma. The transplant went well and your blood counts 
recovered nicely. You had one fever during hospitalization 
(treated with antibiotics), and continued to have problems with 
peripheral neuropathy. 

Please attend the follow-up appointments tomorrow listed below 
with the ___ clinic to follow up on your 
hospitalization. 

We made the following changes to your medications:
1. INCREASED Neurontin (Gabapentin) to 600mg in the morning, 
600mg at noon, and 900mg at night
2. ADDED Lyrica (Pregabalin) 75mg by mouth twice daily
3. ADDED Simethicone 40-80mg by mouth four times daily as needed 
for gas
4. CHANGED oxycodone extended release (Oxycontin) to 20mg in the 
AM, 10 mg at noon, and 20mg at bedtime

*****
 
Followup Instructions:
___